US07453010B2
A suspension of 3.82 g (10 mmol) of tert-butyl trans-benzyl[4-(4-hydroxyphenyl)-cyclohexyl]carbamate (cf. preparation 1.2) and of 0.48 g of 60% sodium hydride (12 mmol) in dimethylformamide (38 ml) is stirred for 25 minutes and then 1.44 ml of ethyl bromoacetate (13 mmol) are added. The reaction is left stirring for 4 h. The reaction medium is neutralized by the addition of a saturated aqueous ammonium chloride solution. The solvents are evaporated under reduced pressure and water and dichloromethane are added. The organic phase is washed 5 times with water and then dried over magnesium sulfate. Ethyl trans-(4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}phenoxy)acetate is obtained in the form of a white solid (4.68 g, 100%) after evaporation of the solvents under reduced pressure.

reactant | tert-butyl trans-benzyl[4-(4-hydroxyphenyl)-cyclohexyl]carbamate | 10 mmol, 3.82 g | C(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C24H31NO3
reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | ethyl bromoacetate | 13 mmol, 1.44 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | Ethyl trans-(4-{4-[benzyl(tert-butoxycarbonyl)amino]cyclohexyl}phenoxy)acetate | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1)C(=O)OC(C)(C)C | C28H37NO5
